US05153210
Methylamine (15 ml of a 33% solution in ethanol) was added, dropwise, to a stirred solution of methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxylate, ethylene ketal (4.1 g) in ethanol (80 ml). The reaction mixture was stirred and heated under reflux for 4 hr, cooled and evaporated to an oil which was dissolved in a mixture of methanol (40 ml) and 2N hydrochloric acid (40 ml) and stirred at ambient temperature for 3 hr. The methanol was evaporated and the aqueous residue was extracted into dichloromethane. The organic extract was dried (MgSO4) and evaporated to an oil which was purified by column chromatography on silica gel. Elution with methanol in chloroform (2:98) gave methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxamide.

reactant | Methylamine | CN | CH5N
reactant | methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxylate | C(C(=O)C)C1=CC=C(OCC2CCC(O2)C(=O)OC)C=C1 | C16H20O5
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxamide | CC1(OC(CC1)COC1=CC=C(C=C1)CC(=O)C)C(=O)N | C16H21NO4
